US05580865
2-(4-benzhydryloxycarbonylbenzyl)-4-tert-Butylcarbonyl-7α-methoxy-3-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem1,1-dioxide (compound 30)
A solution of 4-tert-butylcarbonyl-7α-methoxy-3-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem 1,1-dioxide (500 mg) in dimethyl sulphoxide (4 ml) was treated at room temperature with triethylamine (0.185 ml) and benzhydryl-4-bromomethylbenzoate (1.4 g). The solution was stirred for 1 hr, diluted with dichloromethane, washed with brine and eventually dried over Na2SO4. Removal of the solvent left a crude residue which afforded the title compound as a yellowish solid (250 mg) after flash chromatography.

reactant | 4-tert-butylcarbonyl-7α-methoxy-3-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem 1,1-dioxide | 500 mg | C(C)(C)(C)C(=O)C1=C(C(S([C@H]2N1C([C@@H]2OC)=S)(=O)=O)C2=NN=NN2C)C | C15H21N5O4S2
reactant | triethylamine | 0.185 ml | C(C)N(CC)CC | C6H15N
reactant | benzhydryl-4-bromomethylbenzoate | 1.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(C1=CC=C(C=C1)CBr)=O | C21H17BrO2
solvent | dimethyl sulphoxide | 4 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4-benzhydryloxycarbonylbenzyl)-4-tert-Butylcarbonyl-7α-methoxy-3-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem1,1-dioxide | 250 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=CC=C(CC2(S([C@H]3N(C(=C2C)C(=O)C(C)(C)C)C([C@@H]3OC)=S)(=O)=O)C3=NN=NN3C)C=C1 | C36H37N5O6S2
